US09238640B2
To a solution of 3-formyl-1H-indazole-5-carboxylic acid methyl ester (0.37 g, 1.80 mmol) in anhydrous methanol (15 mL) was added sodium borohydride (68 mg, 1.80 mmol) in small portions at 0° C. After the addition, the reaction mixture was stirred at 0° C. for 30 minutes. Solvent was evaporated; water (100 mL) was added and the mixture was extracted with ethyl acetate (150 mL). The organic phase was washed with brine (100 mL) and dried over anhydrous Na2SO4. Solvent was evaporated to give 3-hydroxymethyl-1H-indazole-5-carboxylic acid methyl ester as a yellow solid. Yield: 0.32 g (87%).

reactant | 3-formyl-1H-indazole-5-carboxylic acid methyl ester | 1.80 mmol, 0.37 g | COC(=O)C=1C=C2C(=NNC2=CC1)C=O | C10H8N2O3
reactant | sodium borohydride | 1.80 mmol, 68 mg | [BH4-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 3-hydroxymethyl-1H-indazole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=NNC2=CC1)CO | C10H10N2O3
